US07572808B2
D. Preparation of 7-bromo-8-iodo-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 7-bromo-8-iodo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (1.0 g, 2.94 mmol) in DMF (10 mL) and N,N-diisopropylethylamine (2.6 mL, 14.7 mmol) at 20° C. was added chloromethyl methyl ether (473 mg, 5.9 mmol). The resulting reaction mixture was stirred for an additional 3 h at 20° C. and then quenched by addition of H2O (25 mL). The quenched reaction mixture was extracted with Et2O/EtOAc (2:1, 3×50 mL). The combined organic extract was washed with saturated aqueous NaHCO3 solution (30 mL), then brine (30 mL), dried over MgSO4, filtered and concentrated in vacuo to obtain the title compound as a light yellow solid (1.1 g, 2.86 mmol). MS: [M+H]+=384.0. 1H NMR (400 MHz, CDCl3) δ 3.46 (s, 3H), 5.34 (s, 2H), 6.68 (d, J=7.15 Hz, 1H), 7.65 (d, J=7.15 Hz, 1H).

reactant | 7-bromo-8-iodo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 2.94 mmol, 1.0 g | BrC1=C(C=2N(C=C1)C(NN2)=O)I | C6H3BrIN3O
reactant | N,N-diisopropylethylamine | 14.7 mmol, 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 5.9 mmol, 473 mg | COCCl | C2H5ClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-bromo-8-iodo-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 2.86 mmol, 1.1 g | BrC1=C(C=2N(C=C1)C(N(N2)COC)=O)I | C8H7BrIN3O2
